US09399640B2
Step 1. 4-[4-(2,4-Difluorophenoxy)-1H-1,2,3-benzotriazol-5-yl]-6-methyl-1-[(4-methylphenyl)sulfonyl]-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one
A solution of 4-[3,4-diamino-2-(2,4-difluorophenoxyl)phenyl]-6-methyl-1-[(4-methylphenyl)sulfonyl]-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one (0.040 g, 0.074 mmol) in acetic acid (0.1 mL, 3 mmol) was treated with water (0.37 mL, 21 mmol) followed by sodium nitrite (0.026 g, 0.37 mmol) and stirred at 20° C. for 30 min. The reaction mixture was diluted with ethyl acetate and water. The organic layer was washed with saturated sodium bicarbonate (2×) and brine, dried with magnesium sulfate, filtered, and concentrated to give the desired product (32 mg, 78%) as a crude brown residue that was used immediately without further purification. LCMS calculated for C27H20F2N5O4S (M+H)+: m/z=548.1. found: 548.1.

reactant | 4-[3,4-diamino-2-(2,4-difluorophenoxyl)phenyl]-6-methyl-1-[(4-methylphenyl)sulfonyl]-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one | 0.074 mmol, 0.040 g | NC=1C(=C(C=CC1N)C=1C2=C(C(N(C1)C)=O)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)OC2=C(C=C(C=C2)F)F | C27H22F2N4O4S
reactant | acetic acid | 3 mmol, 0.1 mL | C(C)(=O)O | C2H4O2
reactant | sodium nitrite | 0.37 mmol, 0.026 g | N(=O)[O-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | water | 21 mmol, 0.37 mL | O | H2O
product | 4-[4-(2,4-Difluorophenoxy)-1H-1,2,3-benzotriazol-5-yl]-6-methyl-1-[(4-methylphenyl)sulfonyl]-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one | 32 mg, 78% | FC1=C(OC2=C(C=CC=3NN=NC32)C=3C2=C(C(N(C3)C)=O)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)C=CC(=C1)F | C27H19F2N5O4S
